US05439928
d) 4-(1,3-diphenylpropyl)-1H-imidazole
1-benzyl-5-(1,3-diphenylpropyl)-1H-imidazole is hydrogenated in the mixture of 2N hydrochloric acid and ethanol at 60° C. 10% Pd/C as catalyst. The product is isolated as in Example 7 b) and is purified by flash chromatography methylene chloride-methanol (9,5:0,5) as eluent. Yield 73%.

reactant | 1-benzyl-5-(1,3-diphenylpropyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCC1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2
reactant | hydrochloric acid | 2N | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4-(1,3-diphenylpropyl)-1H-imidazole | Yield 73% | C1(=CC=CC=C1)C(CCC1=CC=CC=C1)C=1N=CNC1 | C18H18N2
